US07232819B2
Step 1: Methyl 2-benzyl-5-[(tert-butoxycarbonyl)oxy]-6-(2-morpholin-4-ylethoxy)pyrimidine-4-carboxylate (N-2)
To a stirred solution of methyl 2-benzyl-5-[(tert-butoxycarbonyl)oxy]-6-hydroxypyrimidine-4-carboxylate (N-1) (prepared from B-5 in Example 3, Step 1 by protection of the 5-hydroxyl group with pivaloyl chloride using a procedure similar to those set forth in Example 6, Step 2) in THF, CsCO3 (2 eq.) and 4-(2-chloroethyl)morpholine (1.5 eq.) hydrochloride were added and mixture reacted at 60° C. for 1 h. Further addition of 4-(2-chloroethyl)morpholine (1 eq.) allowed the complete consumption of starting material after 2 h. The mixture was then allowed to cool to room temperature, poured into EtOAc, extracted with brine, dried (Na2SO4), filtered and concentrated.

reactant | methyl 2-benzyl-5-[(tert-butoxycarbonyl)oxy]-6-hydroxypyrimidine-4-carboxylate | C(C1=CC=CC=C1)C1=NC(=C(C(=N1)C(=O)OC)OC(=O)OC(C)(C)C)O | C18H20N2O6
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 4-(2-chloroethyl)morpholine | 1.5 eq. | ClCCN1CCOCC1 | C6H12ClNO
reactant | 4-(2-chloroethyl)morpholine | 1 eq. | ClCCN1CCOCC1 | C6H12ClNO
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 2-benzyl-5-[(tert-butoxycarbonyl)oxy]-6-(2-morpholin-4-ylethoxy)pyrimidine-4-carboxylate | C(C1=CC=CC=C1)C1=NC(=C(C(=N1)C(=O)OC)OC(=O)OC(C)(C)C)OCCN1CCOCC1 | C24H31N3O7
